US08809339B2
2-nitro-5-(piperidin-1-yl)-N-(2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)benzamide
To 2-(3-(trifluoromethyl)phenyl)pyrimidin-5-amine (750 mg, 3.14 mmol, 1.00 equiv) in dichloromethane (50 mL) was added 2-nitro-5-(piperidin-1-yl)benzoic acid (1.18 g, 4.72 mmol, 1.50 equiv), EDC.HCl (1.2 g, 6.28 mmol, 2.00 equiv) and 4-dimethylaminopyridine (770 mg, 6.31 mmol, 2.00 equiv) and the resulting solution was stirred for 48 h at room temperature. The reaction was diluted with 25 mL of water and then extracted with 2×25 mL of dichloromethane. The organic layers were combined, dried over sodium sulfate, concentrated, and the residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (1:30-1:5) to give 0.4 g (27%) of product as a yellow solid.

reactant | 2-(3-(trifluoromethyl)phenyl)pyrimidin-5-amine | 3.14 mmol, 750 mg, 1.00 equiv | FC(C=1C=C(C=CC1)C1=NC=C(C=N1)N)(F)F | C11H8F3N3
reactant | 2-nitro-5-(piperidin-1-yl)benzoic acid | 4.72 mmol, 1.18 g, 1.50 equiv | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)N1CCCCC1 | C12H14N2O4
reactant | EDC.HCl | 6.28 mmol, 1.2 g, 2.00 equiv | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 6.31 mmol, 770 mg, 2.00 equiv | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | 25 mL | O | H2O
product | 2-nitro-5-(piperidin-1-yl)-N-(2-(3-(trifluoromethyl)phenyl)pyrimidin-5-yl)benzamide | 0.4 g, 27% | [N+](=O)([O-])C1=C(C(=O)NC=2C=NC(=NC2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C23H20F3N5O3
